Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
testicular pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ y/o M w/ PMHx notable for CP w/ chronic 
contractures, s/p G-tube, chronic aspiration, and chronic back 
pain who presented to the ___ ED via ambulance with complaint 
of severe scrotal pain.  Per ED report, patient reported that 
pain developed acutely in both testicles, is severe, and has 
been ongoing for a month.  No clear aggravating or alleviating 
factors.  He also endorses abdominal pain (chronic), back pain 
(chronic) and being hungry. He is not able to tell me or confirm 
his home medications.  History limited by patient's baseline 
limited ability to communicate.

I spoke with the patient's HCP, ___, this afternoon to 
establish some collateral history.  She reports that the patient 
had NOT been complaining of any pain to herself, the patient's 
nurse, or the patient's personal care assistant.  Further, he 
called an ambulance for the pain specifically while the personal 
care assistant was out of the house on a scheduled break.  
___ also notes that the patient complained of scrotal pain 
approximately one month ago, and was evaluated at ___ 
___, and she thinks he was treated with antibiotics.  She 
says that the scrotal pain has not been an issue that the 
patient has complained of in weeks, so she is somewhat 
suspicious that Mr. ___ was just seeking to get out of the 
house.  She reports he has a long history of calling for an 
ambulance and complaining of pain just for the sake of leaving 
the house, particularly in the winter when it is cold outside 
and he can't just leave the house in his power chair.

Spoke with ___, patient's other HCP. He reports patient 
has had testicular swelling for ~1 month, evaluated at ___, got 
~9 days of abx. But swelling hasn't resolved.  Also has chronic 
abdominal pain. Gets upset when can't get extra pain meds at 
home. Not currently on tube feeds at home due to a prior food 
making him sick and insurance issues.

ROS: patient denies chest pain, fevers, chills, vomiting; he 
endorses chronic cough.  Says he is able to take some PO at 
baseline. 
 
Past Medical History:
PMHx:
Cerebral palsy
HTN
Recurrent urinary tract infections
Chronic abdominal pain
Chronic back pain
Chronic aspiration
Remainder of PMHx unclear, will request records from ___
.
PSHx:
s/p G-tube
hx of abdominal surgery

 
Social History:
___
Family History:
No known family hx of testicular torsion.
 
Physical Exam:
==========================
ADMISSION EXAM:
VS: 98.4   91   115/79   16   95% on RA
Gen: cachectic elderly male with chronic contractures who is in 
no acute distress
HEENT: dry MM, EOMI, sclera anicteric
Neck: no bruits
Lungs: breathing comfortably, no accessory muscle use, 
+bibasilar rhonchi and crackles, clear to auscultation in 
superior lung fields
Cards: RR, no m/r/g
Abd: cachectic, firm throughout, G-tube in place with mild 
surrounding erythema, not tender to palpation, BS+
GU: no suprapubic tenderness, b/l testicles are tender to 
palpation
MSK: severe chronic contractures, severe scoliosis, muscle 
wasting
Neuro: awake, alert, responds slowly but appropriately with 
one-word answers to most questions, unable to fully assess 
orientation, concentration

 
Pertinent Results:
========================
ADMISSION LABS: reviewed.
.
___ 03:40AM BLOOD WBC-8.2 RBC-3.91* Hgb-12.6* Hct-38.9* 
MCV-100* MCH-32.2* MCHC-32.4 RDW-15.0 RDWSD-54.6* Plt ___
___ 03:40AM BLOOD Neuts-78.5* Lymphs-12.1* Monos-7.9 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-6.44* AbsLymp-0.99* 
AbsMono-0.65 AbsEos-0.07 AbsBaso-0.03
___ 03:40AM BLOOD Glucose-85 UreaN-22* Creat-0.3* Na-138 
K-6.1* Cl-100 HCO3-27 AnGap-17
___ 07:41AM BLOOD Lactate-1.5
___ 05:20AM BLOOD K-3.9
.
=========================
MICRO: reviewed
___ UA x2 - 
___ 05:31AM URINE  BLOOD-LG NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-15 BILIRUBIN-NEG UROBILNGN-1 PH-6.0 LEUK-LG
___ 05:31AM URINE  RBC-57* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-0
.
___ 05:22AM URINE  BLOOD-SM NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-1 PH-6.5 LEUK-LG
___ 05:22AM URINE  RBC-14* WBC->182* BACTERIA-MANY 
YEAST-NONE EPI-3
.
___ UCx - NGTD
___ UCx - NGTD
.
=========================
IMAGING:
___ Scrotal u/s:
IMPRESSION:  Small testes.  Large bilateral hydroceles.  No 
evidence of torsion. 
.
___ CT abd/pelvis:
IMPRESSION:
1. Moderate left lower lobe consolidation in the setting of 
prominent 
bronchiectasis and areas of mucous plugging.  While this may 
represent 
atelectasis, infection or aspiration cannot be excluded in the 
appropriate 
clinical circumstance. 
2. Concentric bladder wall thickening may represent cystitis.  
Correlate with urinalysis. 
3. Otherwise no acute findings in the abdomen or pelvis. 
4. Severe bilateral lower lobe bronchiectasis with areas of 
mucous impaction, suggestive of chronic aspiration. 
5. Severe paraseptal emphysema. 
6. Several nonobstructing bilateral renal calculi and bladder 
calculi. 
7. Small volume ascites, likely third-spacing. 
8. Large left-greater-than-right bilateral hydroceles. 
9. Dysplastic bilateral hips, severe levoscoliosis and diffuse 
muscular 
atrophy in keeping with history of cerebral palsy. 

  

   ___ ___ M ___ ___ Microbiology Lab Results
 

Time Taken Not Noted     Log-In Date/Time: ___ 7:50 am
      URINE      ADDED TO SPEC ___ ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------   256 R
PIPERACILLIN/TAZO-----    16 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

 
Brief Hospital Course:
___ y/o M w/ PMHx notable for CP w/ chronic contractures, s/p 
G-tube, chronic aspiration, and chronic back pain who presented 
to the ___ ED via ambulance with complaint of severe scrotal 
pain and was found to have positive UA and imaging findings 
consistent with cystitis.  

# epididymitis, urinary tract infection
No evidence of testicular torsion on scrotal u/s in ED.  Per 
patient's HCP report, he underwent extensive evaluation and 
recent abx treatment for similar symptoms approximately 1 month 
ago at ___.  ___ records were requested but 
were not able to be obtained. He was evaluated by the Urology 
service who recommended a post-void residual bladder scan 
(revealed 147 cc), treatment with abx for 2 weeks for 
orchitis/epididymitis, and follow-up in ___ clinic.  Urine 
culture grew klebsiella sensitive to ceftriaxone. He was treated 
empirically with CTX initially, which was narrowed to 
cefpodoxime once culture results returned.  His pain was 
initially treated in the ED with IV dilaudid and he was 
transitioned to oral oxycodone PRN with good pain relief.

# Adv care planning: Patient lives at home with a PCA. He has 
two health care proxies, ___ and ___. They 
were contacted and confirmed Full Code status and agreed with 
d/c home. He is also followed by ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 50 mg PO BID 
2. Omeprazole 20 mg PO DAILY 
3. Oxybutynin 10 mg PO DAILY 
4. Baclofen 20 mg PO TID 
5. Escitalopram Oxalate 10 mg PO DAILY 
6. Escitalopram Oxalate 20 mg PO DAILY 
7. Finasteride 5 mg PO DAILY 
8. Gabapentin 100 mg PO BID 
9. Senna 8.6 mg PO BID 
10. Ascorbic Acid ___ mg PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. melatonin 5 mg oral QHS 
13. Mirtazapine 15 mg PO QHS 
14. Terazosin 2 mg PO QHS 

 
Discharge Medications:
1. Baclofen 20 mg PO TID 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Finasteride 5 mg PO DAILY 
5. Gabapentin 100 mg PO BID 
6. Metoprolol Tartrate 50 mg PO BID 
7. Mirtazapine 15 mg PO QHS 
8. Omeprazole 20 mg PO DAILY 
9. Oxybutynin 10 mg PO DAILY 
10. Senna 8.6 mg PO BID 
11. Terazosin 2 mg PO QHS 
12. Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth every twelve (12) 
hours Disp #*44 Tablet Refills:*0
13. Ascorbic Acid ___ mg PO DAILY 
14. melatonin 5 mg oral QHS 
15. Vitamin D 1000 UNIT PO DAILY 
16. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ with complaint of severe pain in your 
scrotum and swelling that has been going on for approximately 1 
month.  You were found to have a urinary tract infection and 
were treated with antibiotics and pain medicines.  You were 
evaluated by the Urology team who recommended antibiotics and 
follow-up in ___ clinic for further evaluation of your 
scrotal swelling.

Please take antibiotics as prescribed.

It was a pleasure caring for you while you were in the hospital, 
and we wish you a full and speedy recovery.

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___